US06187905B1
A mixture of 1.3 g (7.03 mmol) of (RS)-ethyl-2-naphthalenemethylamine, 1 g (6.02 mmol) of (S)-(+)-α-methoxyphenylacetic acid, 1.1 g (8.15 mmol) of 1-hydroxybenzotriazole and 1.4 g (7.31 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide was stirred in 20 ml of dichloromethane for 18 hours. The solution was extracted with 2M hydrochloric acid and saturated sodium bicarbonate solution, then dried over magnesium sulphate, filtered and evaporated to dryness. The residue was chromatographed on silica gel using 25% ethyl acetate in petroleum ether and then 33% ethyl acetate in petroleum ether for the elution. After trituration with 50% diethyl ether in petroleum ether there were obtained 950 mg of 2(S)-methoxy-N[1(S)-(2-naphthyl)propyl]-2-phenylacetamide, 1H NMR (400 MHz, DMSO) δ: 0.8-0.85 (t,3H), 1.8-1.9 (m,2H), 3.3 (s,3H), 4.7 (s,1H), 4.8-4.9 (q,1H),7.25-7.5 (m,8H), 7.68 (s,1H), 7.75-7.9 (m,3H), 8.5-8.6 (d,1H), which was eluted first, and 850 mg of 2(S)methoxy-N-[1(R)-(2-naphthyl)propyl]-2-phenylacetamide, 1H NMR (400 MHz, DMSO) δ: 0.8-0.9 (t,3H), 1.75-1.9 (m,2H), 3.3 (s,3H), 4.7 (s,1H), 4.8-4.9 (q,1H), 7.25-7.5 (m,8H), 7.7 (s,1H), 7.75-7.9 (m,3H), 8.5-8.6 (d,1H), which was eluted subsequently.

reactant | (S)-(+)-α-methoxyphenylacetic acid | 6.02 mmol, 1 g | CO[C@H](C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | 1-hydroxybenzotriazole | 8.15 mmol, 1.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 7.31 mmol, 1.4 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2(S)-methoxy-N[1(S)-(2-naphthyl)propyl]-2-phenylacetamide | 950 mg | CO[C@H](C(=O)N[C@@H](CC)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C22H23NO2
